US08058461B2
20b) 2-Bromo-1-(bromomethyl)-4-tert-butylbenzene
To a mixture of 227 g (1.00 mol) of 2-bromo-4-tert-butyl-1-methylbenzene, 160 g (1.00 mol) of bromine and 1.4 liter of CCl4 1.0 g of benzoyl peroxide was added. This mixture was refluxed until evolution of hydrogen bomide was stopped, and red color of bromine disappeared. The resulting mixture was evaporated using rotary evaporated. Fractional rectification of the residue gave 273 g (89%) of the title product, b.p. 138° C.-141° C./4 mm Hg. Anal. calc. for C11H14Br2: C, 43.17; H, 4.61. Found: C, 43.30; H, 6.72. 1H NMR (CDCl3): δ 7.56 (d, J=1.8 Hz, 3-H), 7.37 (d, J=8.1 Hz, 1H, 5-H), 7.30 (dd, J=8.1 Hz, J=1.8 Hz, 1H, 6-H), 4.59 (s, 2H, CH2Br), 1.29 (s, 9H, tBu). 13C{1H} NMR (CDCl3): δ 153.9, 133.9, 130.9, 130.4, 125.1, 124.4, 34.7, 33.4, 31.06.

reactant | 2-bromo-4-tert-butyl-1-methylbenzene | 1.00 mol, 227 g | BrC1=C(C=CC(=C1)C(C)(C)C)C | C11H15Br
reactant | bromine | 1.00 mol, 160 g | BrBr | Br2
reactant | benzoyl peroxide | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
reactant | hydrogen | [H][H] | H2
catalyst | CCl4 | 1.4 liter, 1.0 g | C(Cl)(Cl)(Cl)Cl | CCl4
product | 2-Bromo-1-(bromomethyl)-4-tert-butylbenzene | 273 g, 89% | BrC1=C(C=CC(=C1)C(C)(C)C)CBr | C11H14Br2
